US04125612
To a cooled, stirred suspension containing 154 gms. of anhydrous aluminum chloride, 800 ml. of carbon tetrachloride and 200 gms of p-chlorobiphenyl add (dropwise) 91 gms of acetyl chloride. When the reaction temperature of the mixture reaches 10° C., add 60 ml of methylene chloride and allow the reaction mixture to slowly reach room temperature. Stir the mixture overnight. Pour the resulting mixture into 1 liter of crushed ice and water containing 100 ml. of conc. hydrochloric acid. Separate the organic phase, dry over anhydrous sulfate, filter, concentrate, and triturate the solid residue with 600 ml. of hexane to yield 1-(4'chloro[1,1']biphenyl-4-yl) ethanone, m.p. 100°-101° C.

reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | p-chlorobiphenyl | 200 gms | ClC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Cl
reactant | acetyl chloride | 91 gms | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(4'chloro[1,1']biphenyl-4-yl) ethanone | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O | C14H11ClO
